2195-04-18 08:42:00 Physician Attending Progress Note
Chief Complaint: Neck hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No events overnight--patient with stable HCT and improved neck exam.
   Seen by surgical team with rec's for transfer to floor
   24 Hour Events:
 ARTERIAL LINE - START [**2195-4-17**] 03:09 PM
 CALLED OUT
   Allergies:
   Penicillins
   Rash;
   Sulfonamides
   decreased renal
   Last dose of Antibiotics:
   Clindamycin - [**2195-4-18**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2195-4-18**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 98 (81 - 102) bpm
   BP: 146/79(105) {117/50(75) - 150/79(106)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.4 kg (admission): 82.3 kg
   Height: 82 Inch
             Total In:
                                                                  2,855 mL
                                                                    663 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    655 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    698 mL
   Urine:
                                                                    235 mL
                                                                    498 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
                                                                    200 mL
   Balance:
                                                                  2,325 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Lymphatic: Drain in place, minimal swelling
   Cardiovascular: (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Right radial a-line
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   170 K/uL
   147 mg/dL
   1.0 mg/dL
   21 mEq/L
   5.5 mEq/L
   29 mg/dL
   102 mEq/L
   132 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2195-4-15**]  10:41 PM
                             [**2195-4-16**]  05:30 AM
                             [**2195-4-18**]  04:30 AM
   WBC
   12.4
   11.9
   8.2
   Hct
   34.7
   33.0
   31.1
   Plt
   154
   152
   170
   Cr
   1.1
   1.2
   1.0
   TropT
   <0.01
   0.02
   Glucose
   94
   95
   147
   Other labs: PT / PTT / INR:12.8/28.5/1.1, CK / CKMB /
   Troponin-T:97/3/0.02, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Patient with improved status following surgical intervention.  He has
   200cc out in 12hours from site and with good exam and findings would
   agreee with transfer to floor with continued monitoring by surgical
   team.  Will D/C a-line prior to transfer.  Additionally-->
   Chronic Renal Failure-
   -Continue with Tacrolimus
   -Will repeat K+ given mild elevation
   -I/O even goal for the day.
   S/P Neck Dissection-
   -Continue with PCA
   -Drain to suction
   -Further Rx per ENT and follow up response
   Atrial Firbrillation-
   -Hold Coumadin
   ICU-
   D/C A-line
   S/Q Heparin
   Boots
   To floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2195-4-17**] 03:09 PM
   14 Gauge - [**2195-4-17**] 03:10 PM
   20 Gauge - [**2195-4-17**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2195-04-18 11:09:00 Physician Resident Progress Note
Chief Complaint: 71M with metastatic squamous cell carcinoma, ESRD s/p
   DDRT, Afib, HTN, presents for post-op monitoring after hematoma
   evacuation.
   24 Hour Events:
 ARTERIAL LINE - START [**2195-4-17**] 03:09 PM
 CALLED OUT
   - no signifcant pain; controlled with morphine
   - HD stable throughout evening
   - ENT to call patient out in AM
   Allergies:
   Penicillins
   Rash;
   Sulfonamides
   decreased renal
   Last dose of Antibiotics:
   Clindamycin - [**2195-4-18**] 10:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-18**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 99 (81 - 105) bpm
   BP: 141/40(64) {126/40(64) - 141/85(94)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.4 kg (admission): 82.3 kg
   Height: 82 Inch
             Total In:
                                                                  2,855 mL
                                                                  1,203 mL
   PO:
                                                                    200 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    655 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    878 mL
   Urine:
                                                                    235 mL
                                                                    678 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
                                                                    200 mL
   Balance:
                                                                  2,325 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   Gen: elderly male, NAD
   HEENT: neck sutures in place, staples in place.  No sign of infection.
   Right mandibular swelling stable, non tender.  Drains in place.
   CV: irregular
   Lungs: coarse BS bilaterally
   Abd: soft, normal BS, nontender
   Ext: 1+ BLE edema
   Labs / Radiology
   170 K/uL
   10.9 g/dL
   147 mg/dL
   1.0 mg/dL
   21 mEq/L
   5.5 mEq/L
   29 mg/dL
   102 mEq/L
   132 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2195-4-15**]  10:41 PM
                             [**2195-4-16**]  05:30 AM
                             [**2195-4-18**]  04:30 AM
   WBC
   12.4
   11.9
   8.2
   Hct
   34.7
   33.0
   31.1
   Plt
   154
   152
   170
   Cr
   1.1
   1.2
   1.0
   TropT
   <0.01
   0.02
   Glucose
   94
   95
   147
   Other labs: PT / PTT / INR:12.8/28.5/1.1, CK / CKMB /
   Troponin-T:97/3/0.02, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   71M with metastatic squamous cell carcinoma, ESRD s/p DDRT, Afib, HTN,
   presents for post-op monitoring after hematoma evacuation.
   # Post op monitoring
   - stable overnight.  no HCT drop.  hemodynamically stable
   - neck exam unchanged.  no evidence of increased swelling/bleeding
   - plan by ENT to call out to floor
   # Metastatic SCC: s/p radical neck dissection by ENT (Dr.
   [**Last Name (STitle) 2371**]. Also followed by Dr. [**Last Name (STitle) **] from Heme-Onc and Dr. [**Last Name (STitle) 2373**]
   from Rad-Onc in [**Location (un) 2372**], NH. Plan for chemo-radiation after surgery.
   - Drains in place
 place to suction
   - Pain control with morphine PCA
 appreciate pain consult
   - Receiving peri-operative clinda per ENT
   # S/p renal transplant: Followed by Dr. [**First Name4 (NamePattern1) 2374**] [**Last Name (NamePattern1) 699**]. Renal
   transplant following.
   - cont tacrolimus; dose by level per transplant team
   - Continue immunosuppression per outpatient regimen
   - D/C ACE I if Cr >1.4
   # Radial fracture: Ortho following, to be splinted.  Will follow up as
   outpatient.
   # Gout : Allopurinol
   # Afib: Holding coumadin peri-operatively and will continue to hold in
   the setting of hematoma.
   # HTN: Well controlled. Continue lisininopril and felodipine.
   # Moderate AS: Valve area 0.8cm2. Avoid significant load reduction.
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  adequate
   Lines:
   20 Gauge - [**2195-4-17**] 03:10 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to ENT today